US04088695
Methanol (30 ml.), water (15 ml.) and glacial acetic acid (3 drops) were added to 7-(3-hydroxy-3-methyloct-1-enyl)-6-(7-trimethylsilyloxyheptyl)-1,4-dioxaspiro[4,4]nonane (0.5 g.) and the mixture was stirred at room temperature for 30 minutes. An excess of diethyl ether was then added and the resulting solution was washed with dilute aqueous sodium bicarbonate solution and sodium chloride solution respectively, and dried over sodium sulphate, to give crude 6-(7-hydroxyheptyl)-7-(3-hydroxy-3-methyloct-1-enyl)-1,4-dioxaspiro[4,4]nonane (0.33 g.), νmax 3400 cm-1, pure enough to use in the next stage.

reactant | Methanol | 30 ml | CO | CH4O
reactant | water | 15 ml | O | H2O
reactant | 7-(3-hydroxy-3-methyloct-1-enyl)-6-(7-trimethylsilyloxyheptyl)-1,4-dioxaspiro[4,4]nonane | 0.5 g | OC(C=CC1C(C2(OCCO2)CC1)CCCCCCCO[Si](C)(C)C)(CCCCC)C | C26H50O4Si
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-(7-hydroxyheptyl)-7-(3-hydroxy-3-methyloct-1-enyl)-1,4-dioxaspiro[4,4]nonane | 0.33 g | OCCCCCCCC1C2(OCCO2)CCC1C=CC(CCCCC)(C)O | C23H42O4
